US05395824
Preparation of N-Benzyloxycarbonyl-L-phenylalanine-(1-formyl)pentylamide
In 50 ml of methylene chloride was dissolved 1.8 g of L-norleucine methyl ester hydrochloride, and 1.1 ml of N-methylmorpholine was added to the solution. To the solution were further added 3.0 g of N-benzyloxycarbonyl-L-phenylalanine and 1.9 g of 1-ethyl-3-(3-diethylaminopropyl)carbodiimide, and the mixture was stirred at room temperature for 24 hours. After completion of the reaction, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with a 10% citric acid solution, a saturated brine, a saturated sodium bicarbonate solution, and a saturated brine and dried over sodium sulfate. The solvent was removed by distillation under reduced pressure to obtain 4.1 g of the titled compound.

reactant | L-norleucine methyl ester hydrochloride | 1.8 g | Cl.COC([C@@H](N)CCCC)=O
reactant | N-methylmorpholine | 1.1 ml | CN1CCOCC1 | C5H11NO
reactant | N-benzyloxycarbonyl-L-phenylalanine | 3.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 1-ethyl-3-(3-diethylaminopropyl)carbodiimide | 1.9 g | C(C)N=C=NCCCN(CC)CC | C10H21N3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-Benzyloxycarbonyl-L-phenylalanine-(1-formyl)pentylamide | 4.1 g | C(=O)C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H28N2O4
